US06127360
Synthesis of 7-{3-[4-(2-quinolylmethyl)piperazinyl]propoxy}-3,4-dihydro-2H-1,4-benzothiazin-3-one
After a mixture consisting of 7-hydroxy-3,4-dihydro-2H-1,4-benzothiazin-3-one (1.812 g, 10 mmol), tetra-n-butylammonium bromide (0.322 g, 1 mmol), potassium carbonate (2.764 g, 20 mmol), 1-(3-chloropropyl)-4-(2-quinolylmethyl)piperazine (3.039 g, 10 mmol) and N,N-dimethylformamide (40 ml) was stirred for 4 days at a bath temperature of 50° C. under an argon gas stream, the solvent was distilled off under reduced pressure. Water was added to the residue, followed by extraction with chloroform. The extract was washed with water and then dried over anhydrous magnesium sulfate. The extract was subjected to chromatography on a silica gel column (developer: chloroform/methanol=100/1 to 40/1) and then crystallized from ethyl acetate, whereby 1.188 g of the title compound were obtained as yellow prisms (yield: 26.5%).

reactant | 7-hydroxy-3,4-dihydro-2H-1,4-benzothiazin-3-one | 10 mmol, 1.812 g | OC1=CC2=C(NC(CS2)=O)C=C1 | C8H7NO2S
reactant | potassium carbonate | 20 mmol, 2.764 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(3-chloropropyl)-4-(2-quinolylmethyl)piperazine | 10 mmol, 3.039 g | ClCCCN1CCN(CC1)CC1=NC2=CC=CC=C2C=C1 | C17H22ClN3
catalyst | tetra-n-butylammonium bromide | 1 mmol, 0.322 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 7-{3-[4-(2-quinolylmethyl)piperazinyl]propoxy}-3,4-dihydro-2H-1,4-benzothiazin-3-one | 1.188 g | N1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)CCCOC1=CC2=C(NC(CS2)=O)C=C1 | C25H28N4O2S
